US06579868B1
To a solution of 300 mg of 1-[2-[6-amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl]-1-cyclopentanol in 20 ml of methanol were added six drops of 5N hydrochloric acid and 63 mg of 10% palladium/carbon and the mixture was stirred in a hydrogen atmosphere at room temperature for 17 hours. The palladium/carbon was filtered off, the filtrate was concentrated and the residue was dissolved in ethyl acetate and saturated sodium hydrogen carbonate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated. The resulting residue was subjected to a silica gel column chromatography (15 g of silica gel; dichloromethane, dichloromethane/methanol (40:1, 20:1 and 10:1) to give 1-[2-[6-amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethyl]-1-cyclopentanol. This was dissolved in methanol and then five drops of 5N hydrochloric acid were added thereto followed by concentrating. Ether was added to the residue and the crystals were collected by filtration and washed with ether to give 6209 mg of the product. The yield was 69%.

reactant | 1-[2-[6-amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl]-1-cyclopentanol | 300 mg | NC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCC1)O)C)C1=CC(=CC=C1)F | C19H18FN5O
reactant | hydrogen | [H][H] | H2
solvent | methanol | 20 ml | CO | CH4O
catalyst | hydrochloric acid | 5N, six drops | Cl | ClH
catalyst | palladium/carbon | 63 mg | [Pd] | Pd
product | 1-[2-[6-amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethyl]-1-cyclopentanol | NC1=C2N=C(N(C2=NC(=N1)CCC1(CCCC1)O)C)C1=CC(=CC=C1)F | C19H22FN5O
